US09126931B2
3-Bromo-9-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-5,6,6-trimethyl-5,6-dihydro-benzo[b]carbazol-11-one
To the mixture of 3-bromo-9-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (Compound JJ3-1, 33.2 mg, 0.0706 mmol) and sodium hydride (60% in oil, 6.4 mg, 2.3 eq.), DMA (0.55 mL) and methyl iodide (0.015 mL, 3.4 eq.) were added under nitrogen atmosphere at 0° C., and the mixture was stirred at room temperature overnight. The reaction solution was added with water and extracted with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate. After filtration and the concentration under reduced pressure, the resulting solid was washed with MTBE to obtain the title compound (white solid, 31.2 mg, 91%).

reactant | 3-bromo-9-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 0.0706 mmol, 33.2 mg | BrC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=CC(=C4)OC[C@@H]4OC(OC4)(C)C)=O | C24H24BrNO4
reactant | sodium hydride | 6.4 mg, 2.3 eq. | [H-].[Na+]
reactant | DMA | 0.55 mL | CC(=O)N(C)C | C4H9NO
reactant | methyl iodide | 0.015 mL, 3.4 eq. | CI | CH3I
solvent | water | O | H2O
product | 3-Bromo-9-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-5,6,6-trimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 31.2 mg, 91% | BrC1=CC=C2C=3C(C4=C(C(C3N(C2=C1)C)(C)C)C=CC(=C4)OC[C@@H]4OC(OC4)(C)C)=O | C25H26BrNO4
